US05840892
(a1) Preparation of 4,6-dimethoxy-2-(4-toluenesulfonyl)pyrimidine
4.38 g (25.0 mmol) of 2-chloro-4,6-dimethoxy-pyrimidine and 4.68 g (26.3 mmol) of sodium p-toluenesulfinate were heated in 25 ml of N,N-dimethylformamide to 100° C. while stirring. After 5 hours, the solvent was removed in a rotary evaporator at 60° C./20 mbar. The residue was taken up in 90 ml of water and 90 ml of ethyl acetate. After the organic phase had been separated off, the aqueous phase was again extracted with 75 ml of ethyl acetate. The combined organic phases was washed with water, dried over magnesium sulfate and evaporated. The residue was purified by chromatography on a silica gel column (eluent hexane/ethyl acetate 4:1). The title product was obtained from the product fraction in the form of a white powder in a yield of 3.79 g (15 percent of theory). The melting point of the title compound was 129.2° to 133.4° C. Other data concerning the title compound was:

reactant | 2-chloro-4,6-dimethoxy-pyrimidine | 25.0 mmol, 4.38 g | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | sodium p-toluenesulfinate | 26.3 mmol, 4.68 g | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4,6-dimethoxy-2-(4-toluenesulfonyl)pyrimidine | COC1=NC(=NC(=C1)OC)S(=O)(=O)C1=CC=C(C=C1)C | C13H14N2O4S
